US08138181B2
Step B: Preparation of (trans)-benzyl 3-fluoro-4-hydroxypyrrolidine-1-carboxylate:
benzyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate (10.5 g, 47.9 mmol) and pyridine-hydrogen fluoride (14.2 g, 144.0 mmol) were added to a Teflon bottle containing dichloromethane and stirred vigorously overnight. After 20 hours, the reaction was slowly and carefully quenched with excess saturated solution of NaHCO3 over several minutes and allowed to stir for one hour, and then the organic layer was isolated and washed with NaHCO3 and a solution of brine. The combined organic layers were dried over MgSO4, filtered and evaporated to yield an oil. This crude oil was purified on silica gel using ethyl acetate-hexane to produce 2.0 g (17% isolated yield) of the desired product as an oil.

reactant | benzyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate | 47.9 mmol, 10.5 g | C12CN(CC2O1)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | pyridine hydrogen fluoride | 144.0 mmol, 14.2 g | N1=CC=CC=C1.F
solvent | dichloromethane | ClCCl | CH2Cl2
product | (trans)-benzyl 3-fluoro-4-hydroxypyrrolidine-1-carboxylate | F[C@@H]1CN(C[C@H]1O)C(=O)OCC1=CC=CC=C1 | C12H14FNO3
